US05744488
Ethyl 5-nitro-3-(3-pyridyl)-1H-indole-1-butanoate
5-Nitro-3-(3-pyridyl)-1H-indole (0.60 g) was added portionwise to a stirredsuspension of sodium hydride (0.11 g of 60% dispersion in mineral oil) in dry N,N-dimethylformamide (10 ml) at room temperature, and the mixture wasstirred for 30 minutes. Ethyl 4-bromobutanoate (0.40 g) was added and the mixture was stirred for 18 hours. Further sodium hydride (0.11 g of 60% dispersion) was added, the mixture was stirred for 30 minutes and then further ethyl 4-bromobutanoate (0.40 g) was added. Stirring was continued for an additional 4 hours and then the mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed twice with water and dried (MgSO4). The solvent was evaporated and the residue was chromatographed using dichloromethane/methanol (100:1) as eluent. The product fractions were combined and evaporated, and the residue was triturated with ether to give the title compound (0.51 g), m.p. 76°-78° C. Found: C,64.92; H,5.48; N,11.95. C19 H19N3O4 requires: C,64.58; H,5.42; N,11.89%.

reactant | 5-Nitro-3-(3-pyridyl)-1H-indole | 0.60 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C=1C=NC=CC1 | C13H9N3O2
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | Ethyl 4-bromobutanoate | 0.40 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | ethyl 4-bromobutanoate | 0.40 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-nitro-3-(3-pyridyl)-1H-indole-1-butanoate | 0.51 g | [N+](=O)([O-])C=1C=C2C(=CN(C2=CC1)CCCC(=O)OCC)C=1C=NC=CC1 | C19H19N3O4
